Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Endomemtrial cancer 
 
Major Surgical or Invasive Procedure:
Total laproscopic hysterectomy, bilateral salpingo-oophorectomy, 
bilateral sentinel lymph node dissection, cystoscopy, and 
mini-pfannensteil incision 

 
History of Present Illness:
___ is a ___ y/o female who is referred to GYN ONC for
evaluation of endometrial cancer.

She initially presented with post menopausal bleeding in ___.  

Pelvic ultrasound on ___ showed: Uterus measured 10.2 x 7.4
x 9.0 cm, intramural body/fundal fibroid measuring 6.2 x 6.2 x
5.5 cm.  Endometrium measured 3mm, distended with moderate fluid
and containing a 3 polypoid measuring 2.6 cm. Cervix was
unremarkable. Right ovary unremarkable, left ovary not seen.
There is no free fluid. 

Endometrial biopsy at ___ revealed endometrioid adenocarcinoma,
FIGO grade 1 of 3. This was consistent with extradepartmental
review here. 

Her bleeding continued off and on since her biopsy, has now
stopped.  She denies abdominal pain.  

Endorses fatigue as well as about 10 pounds of weight loss in 
the
last 2 months, which she attributes to being busy at work.  She
did have some chest pain about a month ago that was evaluated at
___ with a stress test, which she states was normal (no records
available).  Endorses intermittent constipation, urinary
frequency with her diuretic, and joint pains.

ROS otherwise non contributory.
 
Past Medical History:
- T2DM
- Hypertension
 
Social History:
___
Family History:
-noncontributory 
 
Physical Exam:
On day of discharge: 

Physical Exam:
General: NAD, comfortable
CV: RRR
Lungs: CTAB
Abdomen: soft, mildly distended, port sites and ___ 
with steri strips intact , + BS, appropriately tender to 
palpation, no rebound or guarding
GU: pad with minimal spotting
Extremities: no edema, non-tender to palpation, pboots in place

 
Pertinent Results:
None 
 
Brief Hospital Course:
Ms. ___ was admitted to the gynecologic oncology service 
after undergoing total laparoscopic hysterectomy, bilateral 
salpingo-oophorectomy, bilateral sentinel lymph node dissection, 
cystoscopy, and ___ incision for grade 1 
endometrioid adenocarcinoma. Please see the operative report for 
full details.  

Her post-operative course is detailed as follows. Immediately 
postoperatively, her pain was controlled with PO Tylenol and 
oxycodone. Her diet was advanced without difficulty. On 
post-operative day #1, her urine output was adequate and her 
Foley was removed with a voiding trial, the results of which are 
as follows: Instilled 300 mL, voided 350 mL with 0 mL residual.

By the evening of post-operative day #1, she was tolerating a 
regular diet, voiding spontaneously, ambulating independently, 
and pain was controlled with oral medications. She was then 
discharged home in stable condition with outpatient follow-up 
scheduled.

 
Medications on Admission:
1. metformin 500 mg tablet PO BID
2. Dyazide (triamterene 37.5 mg-hydrochlorothiazide 25 mg 
tablet) PO qday
3. vitamin D3
4. vitamin B12
5. omeprazole 20 mg PO qday
6. loratadine 10 mg tablet PO qday
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H 
Do not take more than 3000mg in 24 hours 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*50 Tablet Refills:*1 
2.  Docusate Sodium 100 mg PO BID 
Hold for loose stools 
RX *docusate sodium 100 mg 1 capsule(s) by mouth two times a day 
Disp #*60 Capsule Refills:*0 
3.  Ibuprofen 400 mg PO Q6H:PRN Pain - Mild/Fever NOT relieved 
by Acetaminophen 
Do not take more than 1200mg in 24 hours 
RX *ibuprofen 400 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*50 Tablet Refills:*1 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: One order is PACU only
___ cause sedation, do not drink or drive 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*10 Tablet Refills:*0 
5.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Grade I endometrioid adenocarcinoma

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecologic oncology service after 
undergoing the procedures listed below. You have recovered well 
after your operation, and the team feels that you are safe to be 
discharged home. Please follow these instructions: 

Laparoscopic Instructions:
* Take your medications as prescribed. We recommend you take 
non-narcotics (i.e. Tylenol, ibuprofen) regularly for the first 
few days post-operatively, and use the narcotic as needed. As 
you start to feel better and need less medication, you should 
decrease/stop the narcotic first.
* Take a stool softener to prevent constipation. You were 
prescribed Colace. If you continue to feel constipated and have 
not had a bowel movement within 48hrs of leaving the hospital 
you can take a gentle laxative such as milk of magnesium.  
* Do not drive while taking narcotics.  
* Do not combine narcotic and sedative medications or alcohol.  
* Do not take more than 4000mg acetaminophen (tylenol) in 24 
hrs.  
* No strenuous activity until your post-op appointment.  
* Nothing in the vagina (no tampons, no douching, no sex) for 12 
weeks
* No heavy lifting of objects >10 lbs for 6 weeks.  
* You may eat a regular diet.
* It is safe to walk up stairs.  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* You should remove your port site dressings ___ days after your 
surgery, if they have not already been removed in the hospital. 
Leave your steri-strips on.  If they are still on after ___ 
days from surgery, you may remove them.  

Constipation:
* Drink ___ liters of water every day.
* Incorporate 20 to 35 grams of fiber into your daily diet to 
maintain normal bowel function. Examples of high fiber foods 
include:
Whole grain breads, Bran cereal, Prune juice, Fresh fruits and 
vegetables, Dried fruits such as dried apricots and prunes, 
Legumes, Nuts/seeds. 
* Take Colace stool softener ___ times daily.
* Use Dulcolax suppository daily as needed.
* Take Miralax laxative powder daily as needed. 
* Stop constipation medications if you are having loose stools 
or diarrhea.  

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.  


Call your doctor at ___ for:  
* fever > 100.4  
* severe abdominal pain  
* difficulty urinating  
* vaginal bleeding requiring >1 pad/hr  
* abnormal vaginal discharge  
* redness or drainage from incision  
* nausea/vomiting where you are unable to keep down fluids/food 
or your medication  
* chest pain or difficulty breathing 
* onset of any concerning symptoms 
 
Followup Instructions:
___